US05486466
A solution of 103 mg of tert-butyl (4R, 7S)-12, 14-bis (tertbutyldimethylsilyloxy)-1,3,4,5,6,7,8, 10-octahydro-4-hydroxymethyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate in 2 ml of methylene chloride was treated with 99 mg of carbontetrabromide and 79 mg of triphenylphosphine, and then stirred at 20° C. for 15 minutes. The solution was chromatographed on silica gel using ethyl acetate/hexane (1:3, v/v) as eluent to yield tert-butyl (4R, 7S)-4-bromomethyl-12,14-bis-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzooxathiaazacyclododecine-7-carbamate. This material was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 13 to yield, after crystallization from ethyl acetate/hexane, tert-butyl (4R, 7S)-4-bromomethyl- 1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white solid.

reactant | tert-butyl (4R, 7S)-12, 14-bis (tertbutyldimethylsilyloxy)-1,3,4,5,6,7,8, 10-octahydro-4-hydroxymethyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 103 mg | C(C)(C)(C)[Si](OC=1C=C(C2=C(C(OC[C@@H](C(N[C@@H](CSC2)CO)=O)NC(=O)OC(C)(C)C)=O)C1C)O[Si](C)(C)C(C)(C)C)(C)C | C32H56N2O8SSi2
reactant | carbontetrabromide | 99 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (4R, 7S)-4-bromomethyl-12,14-bis-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzooxathiaazacyclododecine-7-carbamate | BrC[C@H]1CSCC2=C(C(OC[C@@H](C(N1)=O)NC(=O)OC(C)(C)C)=O)C(=C(C=C2O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C | C32H55BrN2O7SSi2
